US07985762B2
Step 4: Preparation of benzyl (2S)-1-cyclopropyl-3-hydroxy-4-(methylamino)-4-oxobutan-2-ylcarbamate
To a solution of (3S)-3-(benzyloxycarbonylamino)-4-cyclopropyl-2-hydroxybutanoic acid (180 mg, 0.26 mmol) in DCM (20 mL) was added HOSu (105 mg, 0.92 mmol), EDC (175 mg, 0.92 mmol). After stirred for 30 minutes, methylamine in THF (2 N, 0.92 mL) was added to above mixture. The reaction mixture was stirred for 18 hours and then concentrated in vacuo. The residue was purified by Gilson Prep to afford title compound (50 mg). 1H-NMR (CDCl3): δ 7.53-7.26 (m, 5H), 6.83 (NH, 1H), 5.25 (NH, 1H), 5.05 (m, 2H), 4.25-3.89 (m, 3H), 2.70 (m, 3H), 1.4 (m, 1H), 0.86 (m, 1H), 0.61 (m, 1H), 0.38 (m, 2H), 0.33 (m, 2H). (M+1) 307.

reactant | (3S)-3-(benzyloxycarbonylamino)-4-cyclopropyl-2-hydroxybutanoic acid | 0.26 mmol, 180 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C(C(=O)O)O)CC1CC1 | C15H19NO5
reactant | HOSu | 0.92 mmol, 105 mg | ON1C(=O)CCC1=O | C4H5NO3
reactant | EDC | 0.92 mmol, 175 mg
reactant | methylamine | CN | CH5N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 2 N, 0.92 mL | C1CCOC1 | C4H8O
product | benzyl (2S)-1-cyclopropyl-3-hydroxy-4-(methylamino)-4-oxobutan-2-ylcarbamate | 50 mg | C1(CC1)C[C@@H](C(C(=O)NC)O)NC(OCC1=CC=CC=C1)=O | C16H22N2O4
